Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with metastatic, ___ 5+5, cT3N1M1 Stage IV prostate cancer
involving the spine and retroperitoneal and pelvic lymph nodes,
status post radiation therapy in ___, and concurrent
androgen deprivation therapy, enrolled on ___ ___ Phase 
I/II ___ of Ketoconazole, Hydrocortisone, Dutasteride, and 
Lapatanib (KHAD-L) in Castration-Resistant Prostate Cancer with 
Pre- and Post-Therapy Tumor Biopsies; Day 1 was ___. Now 
cycle 5 day 6 on
lapatinib 500 mg daily presents to the ER with syncope.  
.
He reports about ___ days of feeling unwell with URI symptoms.  
He has some malaise, fatigue, and clear rinorrhea and 
non-productive cough without fever, sick contacts, shakes.  He 
slept all day yesterday and most of the day today. Was not able 
to eat/drink much most of the day today but at dinner, he had 
some soup and a draft beer (does not know how big).  After 
dinner, was zig-zagging walking to the car, felt a little woosy, 
leaned against his wife and slumped down with LOC, but no head 
trauma. Vomited ___ times afterwards, with non-bloody, 
non-bilious vomit. No shaking or convulsions, no incontinance; 
when he awoke he was slightly woosy but remembers about to fall 
down.  He states that he had Alcohol in the distant past when he 
was taking these medications and similar symptoms occurred but 
without the syncope. In the ER, vitals  98 115/78 74 14 100%RA.  
He received ASA 324mg PO, 2L IVF and felt better overall when he 
arrived to the floor.  
.
Review of Systems:  
(+) Per HPI  
(-) Denies fever, night sweats, recent weight loss or gain. 
Denies blurry vision, diplopia, loss of vision, photophobia. 
Denies headache, sinus tenderness. Denies chest pain or 
tightness, palpitations, lower extremity edema. Denies shortness 
of breath, or wheezes. Denies diarrhea, constipation, abdominal 
pain, melena, hematemesis, hematochezia. Denies dysuria, stool 
or urine incontinence. Denies rashes or skin breakdown. No 
numbness/tingling in extremities. All other systems negative.

 
Past Medical History:
ONCOLOGICAL HISTORY: Mr ___ is a ___ year old male who
presented with painless hematuria in ___. He was advise to
undergo cystoscopy at that time, but declined. He had another
episode of hematuria in ___ with passage of clots.
Digital rectal exam revealed a firm left lobe of the prostate.
PSA was 5.19. The prostate was biopsied in ___, (PSA
11.76) showing the following: right lobe ___ 3+3 in ___
cores, 5% of tissue; left lobe ___ 5+5 involving 7 out of 7
cores, ~20% of tissue, lymphovascular invasion noted. This was
performed at ___ with Dr ___.
Further staging studies done at that time showed evidence of
metastatic disease. CT scan of the abdomen and pelvis showed L4
vertebral disease as well as extensive retroperitoneal and 
pelvic
lymphadenopathy. He was then started on Casodex and Zoladex 1
month injection around ___. He had PSA good response 
when
reassessed in ___ with evidence of PSA drop to 0.48 in
___. Casodex was stopped around that time. He continued 
to
do rather well until a few months later when he complained of
hematuria and constant lower back pain and abdominal pain. PSA 
in
___ was found to be elevated at 10.15. He then underwent
radiation therapy to the back and pelvis while on androgen
deprivation therapy at ___ with Dr ___. Per
review of Dr ___, the L3-sacral area was treated using
area was treated using a 3-field approach with CT planning and
computerized dosimetry and received 3600 cGy in 12 fractions 
from
___ through ___. The prostate was treated using IMRT
with CT planning and
computerized dosimetry and received 6000 cGy in 30 fractions 
from
___ through ___, again with CT planning and
computerized dosimetry. Cone beam CT was used for daily
positioning. He had rapid resolution of his pain, which had
resolved after his second week of treatment to that area. By the
third week of radiation to the prostate, he had resolution of 
the
bleeding. He attained good PSA response with PSA lowered to 0.78
in ___. He was instructed to restart Casodex and started
finasteride at that time. 
.
His first visit at the ___ Prostate Cancer clinic was on
___. Initial thought was for him to be on the MDV3100
androgen receptor antagonist ___ involving its use in
chemo-naive patients (PREVAIL: A Multinational Phase 3,
Randomized, Double-Blind, Placebo-Controlled Efficacy and Safety
Study of Oral MDV3100 in Chemotherapy-Naïve Patients with
Progressive Metastatic Prostate Cancer Who Have Failed Androgen
Deprivation Therapy). However, he did not meet eligibility
requirements due to his history of radiation therapy to his
vertebrae prior to enrollment. For notation, his last dose of
bicalutamide and finasteride taken by the patient was on 
___. 
.
The patient was offered and agreed to participate in the
following ___: ___ Phase I/II ___ of Ketoconazole,
Hydrocortisone, Dutasteride, and Lapatanib (KHAD-L) in
Castration-Resistant Prostate Cancer with Pre- and Post-Therapy
Tumor Biopsies. 
___ - Start date; C1 D1
.
TREATMENT HISTORY:
First Line Regimen - ADT, started ___
Radiation therapy - ___ - ___
Second Line Regimen - KHAD-L study; started ___ - visit; bone biopsy performed today, started lapatinib
___ - visit; ___ bone biopsy performed today, C2 lapatinib
___ - visit; C3 lapatinib
___  - visit; C4 lapatinib
___ - visit; C5 lapatinib
.

PAST MEDICAL HISTORY:
1. Repaired uretheral stricture in ___
2. Prostate Cancer
3. Rectal polyp, removed ___

.
 
Social History:
___
Family History:
Mother - breast cancer, died age ___
No other known history of maligancy
Has two grown sons. 

 
Physical Exam:
VS: T 98  HR 72  bp 120/70  RR  16  SaO2 98RA
GEN: NAD, awake, alert  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple, no JVD  
CV: Reg rate, normal S1, S2. No m/r/g.   
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND, no HSM, bowel sounds present
MSK: normal muscle tone and bulk
EXT: No c/c/e, 2+ ___ bilaterally
SKIN: No rash, warm skin
NEURO: oriented x 3, normal attention, CN II-XII grossly intact, 
no focal deficits
PSYCH: appropriate
 
Discharge Exam
VSS  neg orthostatics
GEN:  Patient lying comfortably in bed nad a+ox3
HEENT:  MMM oropharynx clear
NECK:  supple no thyromegaly
CV:  rrr no m/r/g
RESP: ctab no w/r/r
ABD:  soft nt nd bs+ 
EXTR: no ___ edema good pedal pulses bilaterally 
DERM:  no rashes, ulcers or petechiae
neuro:  cn ___ grossly intact non-focal
PSYCH: normal affect and mood

 
Pertinent Results:
___ 09:31PM   LACTATE-1.0
___ 08:00PM   GLUCOSE-114* UREA N-22* CREAT-1.5* SODIUM-139 
POTASSIUM-3.6 CHLORIDE-99 TOTAL CO2-26 ANION GAP-18
___ 08:00PM   cTropnT-<0.01
___ 08:00PM   CALCIUM-9.5 PHOSPHATE-4.1 MAGNESIUM-2.2
___ 08:00PM   NEUTS-84.2* LYMPHS-10.7* MONOS-4.1 EOS-0.5 
BASOS-0.6
___ 08:00PM   NEUTS-84.2* LYMPHS-10.7* MONOS-4.1 EOS-0.5 
BASOS-0.6
___ 08:00PM   PLT COUNT-414
.
EKG: NSR with no ST depressions or elevations, no T wave 
inversions, normal axis and intervals
.
CXR: no acute cardiopulmonary process

.
Discharge labs
___ 09:00AM BLOOD WBC-5.6 RBC-3.70* Hgb-10.2* Hct-32.2* 
MCV-87 MCH-27.7 MCHC-31.9 RDW-14.3 Plt ___
___ 09:00AM BLOOD Glucose-92 UreaN-16 Creat-1.0 Na-138 
K-3.8 Cl-103 HCO3-28 AnGap-11
___ 09:00AM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD cTropnT-<0.01
 
Brief Hospital Course:
#Syncope - Patient symptoms resolved with IV hydration.  trop 
neg and ecg stable.  He was encouraged to take po fluids and 
will follow up with his pcp, ___ on ___
.
Acute renal failure: ___ prerenal azotemia/dehyrdation.  
Improved to baseline with iv hydration.  Pt encouraged to take 
plenty of fluids
.
#Metastatic, ___ 5+5, cT3N1M1 Stage IV prostate cancer: continued 
on home medication and will have zoladex injection next week.  
Discussed with Dr. ___
.
#HTN - told to restart hctz after discharge

 
Medications on Admission:
DUTASTERIDE -  (Prescribed by Other Provider) - Dosage uncertain
GOSERELIN [ZOLADEX] -  (Prescribed by Other Provider) - Dosage
uncertain SC q3 months (Due ___
HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 Tablet(s) by mouth once a
day
HYDROCORTISONE - 10 mg Tablet - 3 Tablet(s) by mouth in the am
and one table in the afternoon with meals
KETOCONAZOLE - 200 mg Tablet - 2 Tablet(s) by mouth three times 
a
day on empty stomach
LAPATINIB [TYKERB] -  (Prescribed by Other Provider: ___ - 
250
mg Tablet - 2 Tablet(s) by mouth daily
 
Medications - OTC
ACETAMINOPHEN [TYLENOL] -  (OTC) - 325 mg Tablet - 2 Tablet(s) 
by
mouth three times a day as needed for pain
CALCIUM CARBONATE [TUMS] -  (OTC) - Dosage uncertain
--------------- --------------- --------------- ---------------
 
Discharge Medications:
1. dutasteride 0.5 mg Capsule Sig: One (1) Capsule PO daily ().  

2. hydrocortisone 20 mg Tablet Sig: 1.5 Tablets PO QAM (once a 
day (in the morning)).  
3. hydrocortisone 20 mg Tablet Sig: 0.5 Tablet PO DAILY AT LUNCH 
TIME ().  
4. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily): Please restart on ___.  
5. ketoconazole 200 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
6. lapatinib 250 mg Tablet Sig: Two (2) Tablet PO once a day.  
7. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO QID (4 times a day) as needed 
for heartburn.  
8. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
9. Zoladex  Subcutaneous

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Acute kidney injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted after a syncopal episode(blacking out).  This 
was likely due to decreased oral intake and dehydration.  Your 
symptoms improved with iv fluid.  Please increase your daily 
fluid intake, at least 8 glasses of water a day.  
 
Followup Instructions:
___